US09353104B2
Step C: (2-(1-methyl-1H-indazol-3-yl)cyclopropyl)methanol (4)
A solution of ethyl 2-(1-methyl-1H-indazol-3-yl)cyclopropanecarboxylate (1.17 g, 5 mmol) in THF (20 mL) was cooled to 0° C. and treated slowly with LAH (270 mg, 7 mmol). The solution was warmed to room temperature and stirred overnight. The reaction mixture was then re-cooled to 0° C. and treated sequentially with 0.3 mL of water, 0.3 mL of 15% NaOH, and 0.9 mL of water. Sodium sulfate was added to the mixture. After stirring at room temperature for 10 min, the mixture was filtered through a pad of Celite and the filtrate was concentrated in vacuo to afford the title compound as pale yellow oil. LRMS m/z (M+H) 204.1 found, 204.1 required. Enantiomers can be resolved by chiral analytical SFC ((R,R)-Whelk-O14.6*250 mm 5 um) ent1=4.37 min (1S,2S) (active isomer, 360 mg), ent2=5.33 min.

reactant | ethyl 2-(1-methyl-1H-indazol-3-yl)cyclopropanecarboxylate | 5 mmol, 1.17 g | CN1N=C(C2=CC=CC=C12)C1C(C1)C(=O)OCC | C14H16N2O2
reactant | LAH | 7 mmol, 270 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | NaOH | 0.3 mL | [OH-].[Na+]
reactant | Sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | 0.9 mL | O | H2O
solvent | water | 0.3 mL | O | H2O
product | (2-(1-methyl-1H-indazol-3-yl)cyclopropyl)methanol | CN1N=C(C2=CC=CC=C12)C1C(C1)CO | C12H14N2O
